US04029816
4-(1-Methylethyl)phenol (27.2 g., 0.20 moles) is dissolved in acetic acid (100 ml.). Iodine monochloride (32.5 g., 0.20 mole) in acetic acid (50 ml.) is then added slowly. The dark mixture is refluxed for 6 hours, cooled and poured into cold water (1 l.) containing a little sodium bisulfite. The black oil that separates is extracted with ether and the extract is washed with water and saturated brine and dried over magnesium sulfate. The ether is evaporated and the residue is purified by distillation to obtain 2-iodo-4-(1-methylethyl)phenol (26 g.), b.p. 137°-140° C. (15 mm.).

reactant | 4-(1-Methylethyl)phenol | 0.20 moles, 27.2 g | CC(C)C1=CC=C(C=C1)O | C9H12O
reactant | Iodine monochloride | 0.20 mole, 32.5 g | ICl | ClI
reactant | water | 1 l | O | H2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-iodo-4-(1-methylethyl)phenol | 26 g | IC1=C(C=CC(=C1)C(C)C)O | C9H11IO
